US07399778B2
1-(1-Benzyl-1H-1,2,4-triazol-5-yl)-2-methylpropan-1-ol was synthesized in a manner similar to that of procedure 21 B but using 1-(phenylmethyl)-1H-1,2,4-triazole and isobutyraldehyde as the starting materials. The product was isolated as a white solid in 71% yield.

reactant | 1-(phenylmethyl)-1H-1,2,4-triazole | C1(=CC=CC=C1)CN1N=CN=C1 | C9H9N3
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 1-(1-Benzyl-1H-1,2,4-triazol-5-yl)-2-methylpropan-1-ol | 71% yield | C(C1=CC=CC=C1)N1N=CN=C1C(C(C)C)O | C13H17N3O
